US07615642B2
Step C: [(4-Fluorocyclohex-3-en-1-yl)methyl]amine hydrochloride
tert-Butyl[(4-fluorocyclohex-3-en-1-yl)methyl]carbamate (1.62 g, 7.06 mmol) was stirred in 25 mL of 1M HCl/AcOH at rt for 2 h. The solvent was evaporated and the product was precipitated in ether, filtered and dried under vacuum. Yield: 1.13 g (97%). 1H NMR (400 MHz, CD3OD) δ 1.44-1.53 (m, 1 H), 1.80-1.89 (m, 2 H), 1.90-1.98 (m, 1 H), 2.16-2.23 (m, 2 H), 2.26-2.34 (m, 1 H), 2.88 (d, J=6.25 Hz, 2 H), 5.12-5.19 (m, 1 H).

reactant | tert-Butyl[(4-fluorocyclohex-3-en-1-yl)methyl]carbamate | 7.06 mmol, 1.62 g | C(C)(C)(C)OC(NCC1CC=C(CC1)F)=O | C12H20FNO2
reactant | HCl AcOH | 1M, 25 mL | Cl.CC(=O)O
product | [(4-Fluorocyclohex-3-en-1-yl)methyl]amine hydrochloride | Cl.FC1=CCC(CC1)CN | InChI=1S/C7H12FN.ClH/c8-7-3-1-6(5-9)2-4-7;/h3,6H,1-2,4-5,9H2;1H
